US07601714B2
1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidin-3-one
DMSO (170 μL, 2.4 mmol) was added dropwise to a solution of oxalyl chloride (105 μL, 1.2 mmol) in dry CH2Cl2 (10 mL) cooled in a dry ice/acetone bath. The reaction mixture was stirred with cooling for 30 min. A solution of 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidin-3-ol (200 mg, 0.4 mmol) in dry CH2Cl2 was added dropwise and the reaction was allowed to stir for 2 h. Et3N (501 μL, 3.6 mmol) was then added and the reaction mixture was stirred for 16 h and allowed to slowly warm to room temperature. The mixture was diluted with CH2Cl2 and poured into saturated aqueous Na2SO4. The aqueous phase was separated and extracted with CH2Cl2 (×2). The combined organic phase was dried over Na2SO4, decanted and concentrated. The crude product was purified by flash chromatography on a 120 g SiO2 column, eluting with 90:9:1 CH2Cl2:MeOH:NH4OH as an eluent to afford 147 mg (74%) of the title compound, m/z 495.6 [M+1]+.

reactant | DMSO | 2.4 mmol, 170 μL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.2 mmol, 105 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidin-3-ol | 0.4 mmol, 200 mg | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)N1CC(C1)O | C22H27F3N6O4
reactant | Et3N | 3.6 mmol, 501 μL | CCN(CC)CC | C6H15N
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)azetidin-3-one | 147 mg, 74% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)N1CC(C1)=O | C22H25F3N6O4
